US05192797
4.3. 2-(Naphthalen-1-yl)propane-1,3-diol
50 g (175 mmol) of diethyl 2-(naphthalen-1-yl)propanedioate in 310 ml of dioxane and 300 ml of water are stirred at ambient temperature; an excess (2.2 mol, or 84 g) of sodium borohydride is then added in portions; the mixture is stirred for 8 h, and the products are left in contact for 2 days. The mixture is then hydrolysed, with stirring, while introducing crushed ice and 3N hydrochloric acid until an acidic pH is obtained. The mixture is extracted with diethyl ether, the organic phase is evaporated, and the residual oil is purified by chromatography on a silica gel column eluted with ethyl acetate. After evaporation and drying at 40° C. in the presence of phosphorus pentoxide, 18.5 g (91 mmol) of product are isolated. Melting point: 58-60° C.

reactant | diethyl 2-(naphthalen-1-yl)propanedioate | 175 mmol, 50 g | C1(=CC=CC2=CC=CC=C12)C(C(=O)OCC)C(=O)OCC | C17H18O4
reactant | sodium borohydride | 2.2 mol, 84 g | [BH4-].[Na+]
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | dioxane | 310 ml | O1CCOCC1 | C4H8O2
solvent | water | 300 ml | O | H2O
product | 2-(Naphthalen-1-yl)propane-1,3-diol | C1(=CC=CC2=CC=CC=C12)C(CO)CO | C13H14O2
